### PR TITLE
refactor: simplify `SimpM` recursive definitions

### PR DESCRIPTION
**Pull request by leodemoura**
Depends on https://github.com/leanprover/lean4/pull/3118.
It breaks `Std`, but it is an easy fix.

### CODE REVIEW

File: src/Lean/Expr.lean [hunk 1]
```diff
@@ -947,6 +947,37 @@ private def getAppRevArgsAux : Expr → Array Expr → Array Expr
...
+The resulting array has size `n` even if `f.getAppNumArgs < n`.
+-/
+@[inline] def getAppArgsN (e : Expr) (n : Nat) : Array Expr :=
+  let dummy := mkSort levelZero
+  loop n e (mkArray n dummy)
+where
+  loop : Nat → Expr → Array Expr → Array Expr
+    | 0,   _,        as => as
+    | i+1, .app f a, as => loop i f (as.set! i a)
+    | _,   _,        as => as
```
Comment (nomeata) [inline src/Lean/Expr.lean:962]: This will return an array with dummy entries if there aren't enough arguments, will it? Maybe worth pointing out in the docs, also on which side the dummies are? Or maybe just panic instead, its probably misuse if `n` is too small?

File: src/Lean/Expr.lean [hunk 2]
```diff
@@ -947,6 +947,37 @@ private def getAppRevArgsAux : Expr → Array Expr → Array Expr
...
+
+/--
+Given `e` of the form `f a_1 ... a_n`, return `f`.
+If `n` is greater than the number of arguments, then return `e.getAppFn`.
+-/
+def extractNumArgs (e : Expr) (n : Nat) : Expr :=
+  match n, e with
+  | 0,   _        => e
+  | n+1, .app f _ => extractNumArgs f n
+  | _,   _        => e
```
Comment (nomeata) [inline src/Lean/Expr.lean:972]: I'm a bit confused by the naming; this doesn't extract the args, but extracts the function, or strips the args, doesn't it?

File: src/Lean/Expr.lean (hunk 1 above)
Comment (leodemoura) [reply src/Lean/Expr.lean:962]: Fixed.

File: src/Lean/Expr.lean (hunk 2 above)
Comment (leodemoura) [reply src/Lean/Expr.lean:972]: Fixed.

File: src/Init/SimpLemmas.lean [hunk 3]
```diff
@@ -84,6 +84,10 @@ theorem dite_congr {_ : Decidable b} [Decidable c]
 @[simp] theorem ite_false (a b : α) : (if False then a else b) = b := rfl
 @[simp] theorem dite_true {α : Sort u} {t : True → α} {e : ¬ True → α} : (dite True t e) = t True.intro := rfl
 @[simp] theorem dite_false {α : Sort u} {t : False → α} {e : ¬ False → α} : (dite False t e) = e not_false := rfl
+@[simp ↓] theorem ite_cond_true {_ : Decidable c} (a b : α) (h : c) : (if c then a else b) = a := by simp [h]
+@[simp ↓] theorem ite_cond_false {_ : Decidable c} (a b : α) (h : ¬ c) : (if c then a else b) = b := by simp [h]
+@[simp ↓] theorem dite_cond_true {α : Sort u} {_ : Decidable c} {t : c → α} {e : ¬ c → α} (h : c) : (dite c t e) = t h := by simp [h]
+@[simp ↓] theorem dite_cond_false {α : Sort u} {_ : Decidable c} {t : c → α} {e : ¬ c → α} (h : ¬ c) : (dite c t e) = e h := by simp [h]
```
Comment (eric-wieser) [inline src/Init/SimpLemmas.lean:90]: What's the intended difference between these lemmas and `if_pos`/`if_neg`/`dif_pos`/`dif_neg`?

Comment (leodemoura) [reply src/Init/SimpLemmas.lean:90]: See comment at https://github.com/leanprover/lean4/pull/3120/commits/5b46fde02ec6b1bb560bde7b18fd251c4076d42b

**Comment by leodemoura** [comment]
Subsumed by https://github.com/leanprover/lean4/pull/3124
